US07645771B2
A solution of benzyl 2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)propanoate (136 mg, 0.223 mmol) in 8 mL MeOH was stirred for 3 h under an atmospheric pressure of hydrogen and in the presence of catalytic 5% Pd/C. Filtration and evaporation afforded 2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)propanoic acid (90.0 mg, 78%) as a solid. 1H NMR (400 MHz, CDCl3), δ 7.69 (m, 1H), 7.40 (m, 1H), 7.26-7.12 (m, 4H), 7.09-6.95 (m, 2H), 5.37 (m, 1H), 3.85-3.55 (m, 5H), 2.81-1.77 (18H), 2.62 (s, 3H), 1.61-1.41 (3H); ESI-MS 517 (M−H).

reactant | benzyl 2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)propanoate | 0.223 mmol, 136 mg | FC=1C=C(C=CC1)C1(CCN(CC1)C(C(=O)OCC1=CC=CC=C1)C)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C38H45FN4O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)propanoic acid | 90.0 mg, 78% | FC=1C=C(C=CC1)C1(CCN(CC1)C(C(=O)O)C)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C31H39FN4O2
